.SUBCKT NOR3X1P4H7R A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MMN3 Y A VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMN2 Y C VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMN0 Y B VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMP3 Y C net025 VDD pm1p2_svt_lp W=314n L=60n m=1
MMP1 net019 A VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP2 net025 B net019 VDD pm1p2_svt_lp W=314n L=60n m=1
.ENDS
