.SUBCKT OA21X4H7R A0 A1 B0 VDD VSS Y
*.PININFO A0:I A1:I B0:I Y:O VDD:B VSS:B
MMNM2 net11 B0 net27 VSS nm1p2_svt_lp W=250n L=60n m=1
MNM0 net27 A0 VSS VSS nm1p2_svt_lp W=250n L=60n m=1
MNM1 net27 A1 VSS VSS nm1p2_svt_lp W=250n L=60n m=1
MPM1 net11 B0 VDD VDD pm1p2_svt_lp W=310n L=60n m=1
MPM0 net11 A1 net14 VDD pm1p2_svt_lp W=310n L=60n m=1
MMPM0 net14 A0 VDD VDD pm1p2_svt_lp W=310n L=60n m=1
XXI3 net11 VDD VSS Y / INV pl=6e-08 pw=7.6e-07 nl=6e-08 nw=6e-07
.ENDS
