.SUBCKT OA22X1H7R A0 A1 B0 B1 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I Y:O VDD:B VSS:B
MNM1 net34 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MNM2 net34 A1 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MNM3 net10 B1 net34 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM0 net10 B0 net34 VSS nm1p2_svt_lp W=150n L=60n m=1
MPM3 net10 B1 net21 VDD pm1p2_svt_lp W=190n L=60n m=1
MPM2 net21 B0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MPM1 S A0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MPM0 net10 A1 S VDD pm1p2_svt_lp W=190n L=60n m=1
XXI1 net10 VDD VSS Y / INV pl=6e-08 pw=2.7e-07 nl=6e-08 nw=2.1e-07
.ENDS
