.SUBCKT OA221X0P7H7R A0 A1 B0 B1 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I C0:I Y:O VDD:B VSS:B
MNM3 net15 C0 net31 VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM3 net31 B0 net39 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM2 net31 B1 net39 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM0 net39 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MNM1 net39 A1 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MPM1 net22 B1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MPM0 net18 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MPM3 net15 C0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM1 net15 A0 net18 VDD pm1p2_svt_lp W=190n L=60n m=1
MPM2 net15 B0 net22 VDD pm1p2_svt_lp W=190n L=60n m=1
XXI1 net15 VDD VSS Y / INV pl=6e-08 pw=2.22e-07 nl=6e-08 nw=1.74e-07
.ENDS
